US07956191B2
3-(2-Chloro-4-ethynyl-phenylamino)-N-(2,3-dihydroxy-propoxy)-isonicotinamide
0.43 mmol of 3-[(2-chloro-4-iodophenyl)amino]-N-{[(2R)-2,3-dihydroxypropyl]oxy}isonicotinamide (synthesis described above), 0.02 mmol of dichlorobis(triphenylphosphine)palladium(II), and 0.03 mmol of copper (I) iodide were dissolved and DMF and TEA. 0.93 mmol of trimethylsilylacetylene was added to the stirring solution and the resultant orange mixture was vigorously stirred for 18 h at ambient temperature. The solvent was then removed under reduced pressure and the residue was diluted with EtOAc, washed with water (2×) and saturated brine (2×). The organics were dried over Na2SO4, filtered, and then concentrated under reduced pressure to give a brown solid, which was then dissolved in methanol. 3.10 mmol of CsF was added and the mixture was stirred at ambient temperature. After stirring for 16 h, the solution was concentrated, taken up in EtOAc, and then the organic phase was washed with water, brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was subjected to column chromatography (Flashmaster) on silica gel using EtOAc/MeOH (0-100%) to afford the desired product LC/MS [5.29 min; 362 (M+1)]

reactant | 3-[(2-chloro-4-iodophenyl)amino]-N-{[(2R)-2,3-dihydroxypropyl]oxy}isonicotinamide | 0.43 mmol | ClC1=C(C=CC(=C1)I)NC1=C(C(=O)NOC[C@@H](CO)O)C=CN=C1 | C15H15ClIN3O4
reactant | DMF | CN(C)C=O | C3H7NO
reactant | trimethylsilylacetylene | 0.93 mmol | C[Si](C)(C)C#C | C5H10Si
reactant | CsF | 3.10 mmol | [F-].[Cs+]
solvent | methanol | CO | CH4O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.02 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.03 mmol | [Cu]I
product | 3-(2-Chloro-4-ethynyl-phenylamino)-N-(2,3-dihydroxy-propoxy)-isonicotinamide | ClC1=C(C=CC(=C1)C#C)NC1=C(C(=O)NOCC(CO)O)C=CN=C1 | C17H16ClN3O4
